US04649146
To a solution of 2-(2-methylamino-4-methylthiazol-5-yl)-7-methylimidazo[1,2-a]pyridine (1.92 g) in a mixture of acetic acid (14 ml) and tetrahydrofuran (10 ml) was added pyridinium hydrobromide perbromide (2.6 g) at ambient temperature and the mixture was stirred for an hour. The reaction mixture was poured into water and the resultant aqueous solution was adjusted to pH 7.5 with saturated potassium carbonate. The product was extracted with chloroform and the extract was dried over magnesium sulfate. The solvent was evaporated in vacuo to afford a crystalline residue, which was recrystallized from a mixture of methylene chloride and diethyl ether to give 2-(2-methylamino-4-methylthiazol-5-yl)-3-bromo-7-methylimidazo[1,2-a]-pyridine (2.2 g).

reactant | 2-(2-methylamino-4-methylthiazol-5-yl)-7-methylimidazo[1,2-a]pyridine | 1.92 g | CNC=1SC(=C(N1)C)C=1N=C2N(C=CC(=C2)C)C1 | C13H14N4S
reactant | pyridinium hydrobromide | Br.[NH+]1=CC=CC=C1
reactant | water | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(2-methylamino-4-methylthiazol-5-yl)-3-bromo-7-methylimidazo[1,2-a]-pyridine | 2.2 g | CNC=1SC(=C(N1)C)C=1N=C2N(C=CC(=C2)C)C1Br | C13H13BrN4S
